US08278442B2
Preparation 86: 4-[(3-Methylbutylamino)methyl]naphthalen-1-ol
Using the procedure outlined in Preparation 83, 4-hydroxynaphthaldehyde and 3-methylbutylamine were converted to the title compound: RT=2.38 min; m/z (ES+)=144.1 [M+H]+.

reactant | 4-hydroxynaphthaldehyde | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | 3-methylbutylamine | CC(CCN)C | C5H13N
product | 4-[(3-Methylbutylamino)methyl]naphthalen-1-ol | CC(CCNCC1=CC=C(C2=CC=CC=C12)O)C | C16H21NO
